US07202257B2
A solution of 4-(trifluoromethyl)piperidin-4-ol and 1-bromo-2-chloroethane are reacted using the procedure for Example OO to afford 1-(2-chloroethyl)-4-(trifluoromethyl)piperidin-4-ol.

reactant | 4-(trifluoromethyl)piperidin-4-ol | FC(C1(CCNCC1)O)(F)F | C6H10F3NO
reactant | 1-bromo-2-chloroethane | BrCCCl | C2H4BrCl
product | 1-(2-chloroethyl)-4-(trifluoromethyl)piperidin-4-ol | ClCCN1CCC(CC1)(O)C(F)(F)F | C8H13ClF3NO
